US05591862
According to the method described for Reference Example 45, 4-chloromethyl-5-methyl-3-(2-naphthyl)oxazole was allowed to react with methyl 5-(4-hydroxyphenyl)valerate to give methyl 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]valerate. Then, according to the method described for Reference Example 42, methyl 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]valerate was subjected to reduction with lithium aluminum hydride to give 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentan-1-ol. Recrystallization from ethyl acetate--ether gave colorless needles, m.p.128°-129° C.

reactant | methyl 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]valerate | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)CCCCC(=O)OC | C27H27NO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]pentan-1-ol | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)CCCCCO | C26H27NO3
